US05336621
Theophylline-8-butyric acid, 24 g (example 1), was dissolved in 500 ml of acetic anhydride with heating. The mixture was gently refluxed for 30 minutes, then filtered through a preheated funnel to remove insoluble material. The product crystallized upon cooling. The product was collected, washed with ether and hexane then dried in vacuum at 50° C. to give 20 g of theophylline-8-butyric acid lactam.

reactant | Theophylline-8-butyric acid | N1(C)C(=O)N(C)C=2N=C(NC2C1=O)CCCC(=O)O | C11H14N4O4
solvent | acetic anhydride | 500 ml | C(C)(=O)OC(C)=O | C4H6O3
product | theophylline-8-butyric acid lactam | 20 g | CN1C2=C(C(=O)N(C1=O)C)N3C(=N2)CCCC3=O | C11H12N4O3
